US07429660B2
4-Bromo-thianthren-1-ol
Thianthren-1-ol (6.5 g, 27.98 mmol) was dissolved in glacial acetic acid (100 ml) and to this solution was added bromine (17.1 μl, 13.99 mmol) in a dropwise fashion over 30 minutes. Water (200 ml) was added to the amber solution and the mixture extracted with EtOAc (3×100 ml). The combined organic extracts were then washed with saturated potassium bicarbonate solution (3×100 ml), dried using MgSO4, filtered and concentrated in vacuo to give the title compound. (7.56 g, 87%). m/z (LC-MS, ESP):, RT=4.92 min, (M++1)=309.

reactant | Thianthren-1-ol | 27.98 mmol, 6.5 g | C1(=CC=CC=2SC3=CC=CC=C3SC12)O | C12H8OS2
reactant | bromine | 13.99 mmol, 17.1 μl | BrBr | Br2
reactant | Water | 200 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-Bromo-thianthren-1-ol | BrC1=CC=C(C=2SC3=CC=CC=C3SC12)O | C12H7BrOS2
